US06613743B2
(3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate.
tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate (0.09 mmol, 50 mg) was stirred in 1 mL trifluoroacetic acid (TFA) at room temperature for 5 hours. The TFA was removed under vacuum, and the resulting residue was dissolved in ethyl acetate, washed with 5% aq. potassium carbonate solution, brine, dried over magnesium sulfate, and concentrated to a residue. The resulting free amine, (2R,3aS,6aR) hexahydrofuro[2,3-b]furan-2-yl 4-nitrophenyl carbonate (0.09 mmol, 27 mg), diisopropylethylamine (0.13 mmol, 0.018 mL), a crystal of N,N-dimethylaminopyridine, 4 A molecular sieves and acetonitrile (0.5 mL) were combined and stirred at room temperature for 3 days. The reaction solution was concentrated to a residue, dissolved in ethyl acetate, washed with 1N HCl, 5% aq. potassium carbonate solution, brine, dried over magnesium sulfate, and concentrated under vacuum. The crude residue was purified by crystallization from ether to yield 15 mg (27%) of white crystals. HL-NMR (CDCl3): δ7.71 (2H,d), 7.28-7.16 (6H,m), 6.97 (2H,d), 5.63-5.61 (1H,m), 5.00-4.98 (1H,m), 4.87-4.77 (1H,m), 4.24-δ 4.11 (1H,m), 3.98-3.79 (4H,m), 3.87 (3H,s), 3.72-3.61 (2H,m), 3.05 (1H,bs), 3.05-2.72 (6H,m), 2.10-1.98 (2H,m), 1.78-1.68 (2H,m), 1.37-1.04 (6H,m); MS (ESI): M+H=605.

reactant | tert-butyl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 0.09 mmol, 50 mg | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(OC(C)(C)C)=O | C28H40N2O7S
reactant | (2R,3aS,6aR) hexahydrofuro[2,3-b]furan-2-yl 4-nitrophenyl carbonate | 0.09 mmol, 27 mg | C(O[C@@H]1C[C@H]2[C@H](OCC2)O1)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C13H13NO7
reactant | diisopropylethylamine | 0.13 mmol, 0.018 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetonitrile | 0.5 mL | C(C)#N | C2H3N
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (3R,3aS,6aR)hexahydrofuro[2,3-b]furan-3-yl N-((1S,2R)-1-benzyl-3-(cyclohexyloxy)[(4-methoxyphenyl)sulfonyl]amino-2-hydroxypropyl)carbamate | 15 mg, 27% | C(C1=CC=CC=C1)[C@@H]([C@H](C(OC1CCCCC1)NS(=O)(=O)C1=CC=C(C=C1)OC)O)NC(O[C@H]1CO[C@H]2OCC[C@H]21)=O | C30H40N2O9S
